US07875715B2
Intermediate 17: 7-Bromoquinolin-2(1H)-one
7-Bromo-2-chloroquinoline was heated in 5M HCl (100 mL) and dioxane (10 mL) for 1 hour at reflux. The Reaction mixture was cooled, filtered and washed with water to give the title compound, 2.89 g, as a colorless solid, mp 295° C.

reactant | 7-Bromo-2-chloroquinoline | BrC1=CC=C2C=CC(=NC2=C1)Cl | C9H5BrClN
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 5M, 100 mL | Cl | ClH
product | 7-Bromoquinolin-2(1H)-one | BrC1=CC=C2C=CC(NC2=C1)=O | C9H6BrNO
